US04160841
A mixture of 8 parts of 1-(4-methoxyphenyl)-1H-1,2,4-triazole and 150 parts of a hydrobromic acid solution 48% is stirred and refluxed overnight. The reaction mixture is evaporated and the residue is triturated in 2-propanone. The product is filtered off and crystallized from ethanol, yielding 5.5 parts (74%) of 4-(1H-1,2,4-triazol-1-yl)phenol; mp. 255.4° C.

reactant | 1-(4-methoxyphenyl)-1H-1,2,4-triazole | COC1=CC=C(C=C1)N1N=CN=C1 | C9H9N3O
reactant | hydrobromic acid | Br | BrH
product | 4-(1H-1,2,4-triazol-1-yl)phenol | 74% | N1(N=CN=C1)C1=CC=C(C=C1)O | C8H7N3O
